US04686217
5-Cyclopentyl 3-methyl 4-(2,3-dichlorophenyl)-2-(fluoromethyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylate
2,3-Dichlorobenzaldehyde (1.31 g, 7.5 mmoles), methyl 4-fluoro-3-oxobutanoate (1.0 g, 7.5 mmoles) and cyclopentyl 3-amino-2-butenoate (1.26 g, 7.5 mmoles) were heated at 90° with stirring under nitrogen for 2.5 hours. The reaction mixture was dissolved in ethyl acetate, dried (MgSO4) and the solvent was removed in vacuo. The residue was chromatographed on silica eluting with ethyl acetate/methylene chloride mixtures. The title compound (0.95 g) was obtained after crystallisation from petroleum ether (60°-80) mp 148°-50°.

reactant | 2,3-Dichlorobenzaldehyde | 7.5 mmoles, 1.31 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | methyl 4-fluoro-3-oxobutanoate | 7.5 mmoles, 1.0 g | FCC(CC(=O)OC)=O | C5H7FO3
reactant | cyclopentyl 3-amino-2-butenoate | 7.5 mmoles, 1.26 g | NC(=CC(=O)OC1CCCC1)C | C9H15NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Cyclopentyl 3-methyl 4-(2,3-dichlorophenyl)-2-(fluoromethyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylate | 0.95 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC1CCCC1)C)CF)C(=O)OC | C21H22Cl2FNO4
